US07872028B2
Step 3. (R)-tert-butyl 2-((S)-(3-chlorophenyl)(cyanomethoxy)methyl)morpholine-4-carboxylate
To a solution of (R)-tert-butyl 2-((S)-(3-chlorophenyl)(hydroxy)methyl)morpholine-4-carboxylate (1.3 g, 3.98 mmol) in MeCN (20 mL), NaH (230 mg, 9.55 mmol) was added at 0° C. The mixture was stirred for 1 h at rt. The mixture was cooled to −40° C., and bromoacetonitrile (1.14 g, 9.55 mmol) was added in portions. The mixture was stirred for 0.5 h at −20° C. The solution was evaporated and H2O (50 mL) was added. 1N aq HCl was added and the mixture was extracted with CH2Cl2. The organic layer was washed with aq NaHCO3 and brine, dried over Na2SO4 and concentrated. The crude product was used directly in the next step.

reactant | (R)-tert-butyl 2-((S)-(3-chlorophenyl)(hydroxy)methyl)morpholine-4-carboxylate | 3.98 mmol, 1.3 g | ClC=1C=C(C=CC1)[C@@H]([C@H]1CN(CCO1)C(=O)OC(C)(C)C)O | C16H22ClNO4
reactant | NaH | 9.55 mmol, 230 mg | [H-].[Na+]
reactant | bromoacetonitrile | 9.55 mmol, 1.14 g | BrCC#N | C2H2BrN
solvent | MeCN | 20 mL | CC#N | C2H3N
product | (R)-tert-butyl 2-((S)-(3-chlorophenyl)(cyanomethoxy)methyl)morpholine-4-carboxylate | ClC=1C=C(C=CC1)[C@@H]([C@H]1CN(CCO1)C(=O)OC(C)(C)C)OCC#N | C18H23ClN2O4
